US08633173B2
To a suspension of [8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-methoxy-phenyl)-amine (150.0 mg, 0.3803 mmol) in dichloromethane (10 mL, was added dropwise 1.0 M of boron tribromide in dichloromethane (1.2 mL, 1.2 mmol). The mixture was stirred for 1 hour at room temperature then methanol (5 mL) was added slowly. The mixture was evaporated to dryness. Additional methanol (10 mL) was added and the mixture was evaporated to dryness. The brown solid was suspended in saturated sodium bicarbonate (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated to a solid. 4-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenol was isolated without further purification as a light brown solid (0.115 g, 80%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.47 (dd, J=6.7, 0.9 Hz, 1H), 8.22 (d, J=8.4 Hz, 2H), 8.08 (d, J=8.5 Hz, 2H), 7.64 (dd, J=7.4, 0.8 Hz, 1H), 7.44 (d, J=8.7 Hz, 2H), 7.00 (dd, J=7.1, 7.1 Hz, 1H), 6.84 (d, J=8.6 Hz, 2H), 6.73 (s, 1H), 4.72 (br s, 1H), 3.09 (s, 3H). MS=381 (MH)+.

reactant | [8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-methoxy-phenyl)-amine | 0.3803 mmol, 150.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C20H18N4O3S
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 1.2 mmol, 1.2 mL | ClCCl | CH2Cl2
product | 4-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenol | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)O | C19H16N4O3S
